US07749992B2
Step 4. Preparation of 7-Trifluoromethyl-1,2,3,4-tetrahydro-benzo[b]azepin-5-one
Add a solution of methyl 2-[tert-Butoxycarbonyl-(3-methoxycarbonyl-propyl)-amino]-5-trifluoromethyl-benzoic acid methyl ester (0.5 g, 1.3 mmol) in toluene (25 mL) to a suspension of potassium tert-butoxide (0.3 g, 2.6 mmol) in toluene (75 mL) at 70° C., under an atmosphere of nitrogen, over a period of 30 min. After 2 h, cool the reaction to room temperature and quench the reaction with acetic acid (2.6 mmol). Dilute the reaction with water (100 mL) and dichloromethane (100 mL). Separate the organic phase, dry over sodium sulfate, and filter. Remove the solvent under vacuum then dissolve the crude intermediate in acetic acid (20 mL). Dilute with conc. HCl (20 mL) and water (10 mL) and heat the mixture to 100° C. for 4 h. After cooling to room temperature neutralize the reaction with 5N NaOH while cooling in an ice bath. Extract the organics with ethyl acetate (3×100 mL), dry over sodium sulfate, and filter. Remove the solvent under vacuum and chromatograph the product over silica gel using ethyl acetate/hexane (5-20%) to elute. This provides the title compound as an off white solid (0.13 g, 45%): H NMR (CDCl3, 400 MHz) δ 2.22-2.29 (m, 2H), 2.88 (t, J=6.4 Hz), 3.35 (t, J=6.8 Hz), 4.96 (bs, 1H), 6.84 (d, J=8.8 Hz, 1H), 7.46 (dd, J=2.0, 8.8 Hz, 1H), 8.02 (s, 1H).

reactant | methyl 2-[tert-Butoxycarbonyl-(3-methoxycarbonyl-propyl)-amino]-5-trifluoromethyl-benzoic acid methyl ester | 1.3 mmol, 0.5 g | COC(C1=C(C(=CC(=C1)C(F)(F)F)C)N(CCCC(=O)OC)C(=O)OC(C)(C)C)=O | C20H26F3NO6
reactant | potassium tert-butoxide | 2.6 mmol, 0.3 g | CC(C)([O-])C.[K+]
reactant | acetic acid | 2.6 mmol | C(C)(=O)O | C2H4O2
reactant | water | 100 mL | O | H2O
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 75 mL | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 7-Trifluoromethyl-1,2,3,4-tetrahydro-benzo[b]azepin-5-one | FC(C1=CC2=C(NCCCC2=O)C=C1)(F)F | C11H10F3NO
